US05105017
Ethyl 4-(4-acetyl-3-hydroxy-2-propylbenzylamino)benzoate
A solution of 6.8 g. of 4-acetyl-3-hydroxy-2-propylbenzyl chloride and 14.9 g. of ethyl 4-aminobenzoate in 200 ml. of acetonitrile was heated to reflux for 48 hours. An additional 9.9 g. of ethyl 4-aminobenzoate were added and the reaction was refluxed an additional 120 hours. The reaction mixture was cooled and concentrated in vacuo. The residue was dissolved in methylene chloride. The organic solution was washed first with a saturated sodium carbonate solution and then with water. The organic solution was then dried over sodium sulfate and evaporated to dryness. Chromatography of the residue afforded 7.4 g. of the desired title product. NMR.

reactant | 4-acetyl-3-hydroxy-2-propylbenzyl chloride | C(C)(=O)C1=C(C(=C(CCl)C=C1)CCC)O | C12H15ClO2
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | acetonitrile | C(C)#N | C2H3N
product | Ethyl 4-(4-acetyl-3-hydroxy-2-propylbenzylamino)benzoate | C(C)(=O)C1=C(C(=C(CNC2=CC=C(C(=O)OCC)C=C2)C=C1)CCC)O | C21H25NO4
